US07521461B2
b) Methyl 2-{[2-(3-tert-butoxyphenyl)ethyl]thio}benzoate
1-(2-Bromoethyl)-3-tert-butoxybenzene (320 mg, 1.244 mmol) was dissolved in acetonitrile (15 ml). Methyl thiosalicylate (209 mg, 1.244 mmol) was added and then potassium carbonate, anhydrous (258 mg, 1.866 mmol) was added. The mixture was heated to reflux for 3 hours and then evaporated under vacuum to dryness. Chromatography of the residue on a column (ISOLUTE® SI, 5 g/25 ml) using ethyl acetate/heptane (5:95) as eluant gave 421 mg desired product, yield 98%.

reactant | 1-(2-Bromoethyl)-3-tert-butoxybenzene | 1.244 mmol, 320 mg | BrCCC1=CC(=CC=C1)OC(C)(C)C | C12H17BrO
reactant | Methyl thiosalicylate | 1.244 mmol, 209 mg | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | potassium carbonate, anhydrous | 1.866 mmol, 258 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | Methyl 2-{[2-(3-tert-butoxyphenyl)ethyl]thio}benzoate | 421 mg, yield 98% | C(C)(C)(C)OC=1C=C(C=CC1)CCSC1=C(C(=O)OC)C=CC=C1 | C20H24O3S
